US07687491B2
(27e) {5-[5-(4-Isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-6-methyl pyridin-2-yl}methanol
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 12 (12a) using 4-isobutyl-3-methylbenzoic acid (96 mg, 0.50 mmol) that was obtained in Example 27 (27d), 1-hydroxybenzotriazole (72 mg, 0.53 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.10 g, 0.53 mmol), N′-hydroxy-2-methyl-6-{[(triisopropylsilyl)oxy]methyl}pyridine-3-carboximidamide (0.16 g, 0.48 mmol) that was obtained in Example 24 (24d) and a 1.0 M solution of tetrabutylammonium fluoride in tetrahydrofuran (0.96 ml, 0.96 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:2) as the eluent to afford the title compound (0.15 g) in a yield of 91% as a white crystalline solid.

reactant | 4-isobutyl-3-methylbenzoic acid | 0.50 mmol, 96 mg | C(C(C)C)C1=C(C=C(C(=O)O)C=C1)C | C12H16O2
reactant | 1-hydroxybenzotriazole | 0.53 mmol, 72 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.53 mmol, 0.10 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N′-hydroxy-2-methyl-6-{[(triisopropylsilyl)oxy]methyl}pyridine-3-carboximidamide | 0.48 mmol, 0.16 g | ON=C(N)C=1C(=NC(=CC1)CO[Si](C(C)C)(C(C)C)C(C)C)C | C17H31N3O2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 0.96 mmol, 0.96 ml | O1CCCC1 | C4H8O
product | {5-[5-(4-Isobutyl-3-methylphenyl)-1,2,4-oxadiazol-3-yl]-6-methyl pyridin-2-yl}methanol | C(C(C)C)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=CC(=NC1C)CO)C | C20H23N3O2
